US07084156B2
Step B: 2-Oxo-1,2,3,4-tetrahydroquinoline-6-carbonitrile
6-Iodo-3,4-dihydroquinolin-2(1H)-one (1.50 g; 5.50 mmol), sodium cyanide (0.54 g; 11.0 mmol), copper (I) iodide (0.105 g; 0.5 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.32 g; 0.3 mmol) were combined in a flask equipped with a reflux condenser. The flask was subjected to several evacuation-nitrogen purge cycles followed by the addition of acetonitrile (25 mL). The reaction was heated to reflux for 5 hours. After cooling, the reaction was diluted with ethyl acetate (200 mL), filtered through CELITE diatomaceous earth and rinsed with copious amounts of ethyl acetate. The organic solution was washed twice with brine (50 mL), dried over sodium sulfate, filtered through a fritted funnel, and the volatiles were removed under vacuum. The crude residue was crystallized from methanol, which afforded the title compound.

reactant | 6-Iodo-3,4-dihydroquinolin-2(1H)-one | 5.50 mmol, 1.50 g | IC=1C=C2CCC(NC2=CC1)=O | C9H8INO
reactant | sodium cyanide | 11.0 mmol, 0.54 g | [C-]#N.[Na+]
catalyst | copper (I) iodide | 0.5 mmol, 0.105 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 mmol, 0.32 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Oxo-1,2,3,4-tetrahydroquinoline-6-carbonitrile | O=C1NC2=CC=C(C=C2CC1)C#N | C10H8N2O
